US05750635
The poly(ethylene terephthalate) and poly(ethylene terephthalate-co-1,4-cyclohexanedimethylene terephthalate) polyesters described in Tables 1 and 2 were prepared by standard melt polymerization techniques known to the art. Terephthalic acid, ethylene glycol and 1,4-cyclohexanedimethanol (CHDM) were first pre-esterified to form the bis(2-hydroxyethyl)terephthalate or the equivalent CHDM co-terephthalate monomers in a pressurized vessel. This was required due to the high temperature necessary to dissolve terephthalic acid in the polyhydric alcohols. However, this should not be limited to such a procedure, as a continuous process, or any other polyester synthesis based on TPA (terephthalic acid) known the art, could also be used. Once formed, the monomers were added to a 4-necked 500 mL round bottom glass flask which was equipped with a nitrogen inlet, an additive inlet, a condensate outlet and a stirrer. Catalysts, stabilizers and toner dyes, as indicated in Table 1, were also added to this same reaction vessel. The reaction flask was then purged with nitrogen and then immersed in a metal bath which was preheated to 225° C. The mixture was stirred and held at this temperature for 15 minutes to form a homogeneous melt. The temperature was then raised to 280° C. and vacuum was applied incrementally until a vacuum of <1 mm Hg was obtained. The reaction mixture was stirred and maintained under these conditions for 45 minutes. The formed polyester was then isolated, and analyzed for color, molecular weight, and thermal stability.

reactant | Terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
reactant | ethylene glycol | C(CO)O | C2H6O2
product | bis(2-hydroxyethyl)terephthalate | OCCOC(C1=CC=C(C(=O)OCCO)C=C1)=O | C12H14O6
